US05760035
2-Bromoethyl phenyl ether (4.94 g) was added to a mixture of 4-[2-(N-benzyl-N-methylamino)ethyl]piperidine dihydrochloride (7.5 g), DMF (50 ml) and triethylamine (13.7 ml) The mixture was heated on a steam bath for 18 hours and then poured into water (300 ml) and acidified with 2M hydrochloric acid. The mixture was washed with ether then basified with 2M sodium hydroxide solution and extracted with dichloromethane to give a gum. The gum was dissolved in petroleum ether b.p. 60°-80° C., treated with charcoal and hot filtered. The filtrate was evaporated and the residual oil was dissolved in ether, acidified with ethereal hydrogen chloride, and filtered. The solid obtained was washed with ether and recrystallised from absolute ethanol to give 4-[2-(N-benzyl-N-methylamino)ethyl]-1-(2-phenoxyethyl)piperidine dihydrochloride, m.p. 276°-278° C.

reactant | 2-Bromoethyl phenyl ether | 4.94 g | C1(=CC=CC=C1)OCCBr | C8H9BrO
reactant | 4-[2-(N-benzyl-N-methylamino)ethyl]piperidine dihydrochloride | 7.5 g | Cl.Cl.C(C1=CC=CC=C1)N(C)CCC1CCNCC1
reactant | hydrochloric acid | 2M | Cl | ClH
reactant | charcoal | C | CH4
solvent | water | 300 ml | O | H2O
solvent | triethylamine | 13.7 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-[2-(N-benzyl-N-methylamino)ethyl]-1-(2-phenoxyethyl)piperidine dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)N(C)CCC1CCN(CC1)CCOC1=CC=CC=C1 | InChI=1S/C23H32N2O.2ClH/c1-24(20-22-8-4-2-5-9-22)15-12-21-13-16-25(17-14-21)18-19-26-23-10-6-3-7-11-23;;/h2-11,21H,12-20H2,1H3;2*1H
